US06133266
(-)-(2R)-2-(2,2-Dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (686 mg) was dissolved in 50 ml of tetrahydrofuran, 3.58 ml of 2 M borane-dimethylsulfide complex in tetrahydrofuran was added, and the mixture was heated under reflux for 3 hours. Then, a solution of 1.34 g of triethanolamine in 5.0 ml of tetrahydrofuran was added, and the mixture was again heated under reflux for 15 hours. After cooling, water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was recrystallized from ethyl acetate to give 560 mg of (-)-(1R)-1-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]ethanol having a melting point of 156 to 158° C.

reactant | (-)-(2R)-2-(2,2-Dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 686 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](C(=O)N[C@@H]2CC1=CC(=CC=C1CC2)O)O)C | C22H25NO5
reactant | triethanolamine | 1.34 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | (-)-(1R)-1-(2,2-dimethylbenzo[1,2-d]-1,3-dioxan-6-yl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)amino]ethanol | 560 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@H](CN[C@@H]2CC1=CC(=CC=C1CC2)O)O)C | C22H27NO4
